US04880804
Part A Preparation of 2-(1-Bromobutyl)-1-[(2'-carboxymethylbiphenyl-4-yl)methyl]benzimidazole-6-carboxaldehyde
To a mixture 0.55 g of 2-butyl-1-[(2'-carboxymethylbiphenyl-4-yl)methyl]benzimidazole-6-carboxaldehyde in 30 mL of carbon tetrachloride was added 0.23 g of N-bromosuccinimide and a catalytic amount of azobisisobutyronitrile. The reaction was stirred at room temperature until the reaction went to completion and then concentrated to dryness. The residue was partitioned between ethyl acetate and water. The organic phase was washed with water, dried and concentrated. Flash column chromatography (silica gel; 1:1 hexane/ethyl acetate to 1:3 hexane/ethyl acetate) afforded 0.45 g of the product as a thick clear oil.

reactant | 2-butyl-1-[(2'-carboxymethylbiphenyl-4-yl)methyl]benzimidazole-6-carboxaldehyde | 0.55 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)CC(=O)O)C=C(C=C2)C=O | C27H26N2O3
reactant | N-bromosuccinimide | 0.23 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1-Bromobutyl)-1-[(2'-carboxymethylbiphenyl-4-yl)methyl]benzimidazole-6-carboxaldehyde | 0.45 g | BrC(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)CC(=O)O)C=C(C=C2)C=O | C27H25BrN2O3
